US04661483
(a) 4-(Dimethylamino)-2,2-dimethyl-4-oxobutanoic acid (4a)
To a stirred solution of dimethylamine (6.8 g, 150 mmol) in tetrahydrofuran (150 ml) at 0° C. was added dropwise a solution of 2,2-dimethylsuccinic anhydride (4.8 g, 37.5 mmol) in tetrahydrofuran (50 ml) and reaction mixture stirred for about 16 hours at ambient temperature. The solvent was removed in vacuo and the residue was washed with 6N hydrochloric acid (5 ml) and methylene chloride was added to dissolve the precipitate. The solution was washed with saturated aqueous sodium chloride (2×25 ml), dried over magnesium sulfate and concentrated to a pale yellow solid. The solid was dissolved in methylene chloride (20 ml) and the desired product precipitated upon the addition of hexane to yield a colorless solid. mp 119°-121° C.

reactant | dimethylamine | 150 mmol, 6.8 g | CNC | C2H7N
reactant | 2,2-dimethylsuccinic anhydride | 37.5 mmol, 4.8 g | CC1(C(=O)OC(C1)=O)C | C6H8O3
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(Dimethylamino)-2,2-dimethyl-4-oxobutanoic acid | CN(C(CC(C(=O)O)(C)C)=O)C | C8H15NO3
